US09029560B2
Preparation of 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC81)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(2-isopropyl-5-methylphenyl)thiourea isolated as an off-white solid (0.019 g, 6%): 1H NMR (400 MHz, DMSO-d6) δ 11.89 (s, 1H), 10.12 (s, 1H), 9.42 (s, 1H), 8.14-8.05 (m, 2H), 8.05-7.96 (m, 2H), 7.62 (ddd, J=7.8, 1.9, 0.9 Hz, 2H), 7.49 (t, J=7.6 Hz, 1H), 7.39 (dt, J=7.7, 1.5 Hz, 1H), 7.24-7.17 (m, 2H), 7.12-7.05 (m, 1H), 7.02 (t, J=5.8 Hz, 1H), 3.52-3.42 (m, 2H), 2.91 (dt, J=14.1, 6.9 Hz, 3H), 2.25 (s, 3H), 1.13 (d, J=6.8 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 583 ([M+H]+), 581 ([M−H]−).

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
product | 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C29H29F3N6O2S
